US08034827B2
c) trans-[4-(2-Pyrrolidin-1-yl-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester
A mixture of methanesulfonic acid trans-2-(4-tert-butoxycarbonylamino-cyclohexyl)-ethyl ester (3.2 g, 10 mmol), potassium carbonate (1.4 g, 10 mmol) and pyrrolidine (1.25 mL, 15 mmol) in acetonitrile (40 mL) was stirred at 60° C. for 2 hours. The mixture was cooled to room temperature and poured into water (200 mL). The precipitated white crystals were filtered off and washed with water to yield 1.9 g (64%) of the title compound.

reactant | methanesulfonic acid trans-2-(4-tert-butoxycarbonylamino-cyclohexyl)-ethyl ester | 10 mmol, 3.2 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)CCOS(=O)(=O)C | C14H27NO5S
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine | 15 mmol, 1.25 mL | N1CCCC1 | C4H9N
reactant | water | 200 mL | O | H2O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | trans-[4-(2-Pyrrolidin-1-yl-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | 1.9 g, 64% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCCC1)=O | C17H32N2O2
